US04463177
Hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one
Using acetic acid as solvent. A solution of 3-(2-chloro-3-oxocyclohex-1-enyl)-hexahydro-1-methylazepin-2-one (5.12 g) in glacial acetic acid (50 ml) was treated with 48% HBr in acetic acid (2 ml). After 12 hours the reaction mixture was poured on to water and the resulting precipitate removed by filtration to yield the title compound m.p. 192°-3° C. (EtOAc).

reactant | 3-(2-chloro-3-oxocyclohex-1-enyl)-hexahydro-1-methylazepin-2-one | 5.12 g | ClC1=C(CCCC1=O)C1C(N(CCCC1)C)=O | C13H18ClNO2
reactant | HBr | Br | BrH
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | Hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one | OC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C13H17NO2
